### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal): add `add_iSup`, `mul_iSup` and friends

### PR DESCRIPTION
**Pull request by SabrinaJewson**
Add a couple lemmas for working with ordinal `iSup` and `sSup`, addition and multiplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 1]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
 alias IsNormal.apply_omega0 := apply_omega0_of_isNormal
 
 @[simp]
-theorem iSup_add_natCast (o : Ordinal) : ⨆ n : ℕ, o + n = o + ω :=
-  apply_omega0_of_isNormal (isNormal_add_right o)
+protected theorem add_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] [Nonempty ι] (f : ι → Ordinal) :
+  o + iSup f = ⨆ i, o + f i := (isNormal_add_right o).map_iSup (bddAbove_of_small _)
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
    o + iSup f = ⨆ i, o + f i :=
  (isNormal_add_right o).map_iSup (bddAbove_of_small _)
```

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 2]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
 alias IsNormal.apply_omega0 := apply_omega0_of_isNormal
 
 @[simp]
-theorem iSup_add_natCast (o : Ordinal) : ⨆ n : ℕ, o + n = o + ω :=
-  apply_omega0_of_isNormal (isNormal_add_right o)
+protected theorem add_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] [Nonempty ι] (f : ι → Ordinal) :
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
theorem add_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] [Nonempty ι] (f : ι → Ordinal) :
```

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 3]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+  o + iSup f = ⨆ i, o + f i := (isNormal_add_right o).map_iSup (bddAbove_of_small _)
+
+@[simp]
+lemma add_lsub (o : Ordinal.{max u v}) {ι : Type u} [Nonempty ι] (f : ι → Ordinal) :
+  o + lsub f = lsub (fun i ↦ o + f i) := by
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
    o + lsub f = lsub (fun i ↦ o + f i) := by
```

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 4]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+  rw [lsub, lsub, Ordinal.add_iSup]; change _ = iSup (fun i ↦ succ _); simp [add_assoc]
+
+@[simp]
+protected lemma mul_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] (f : ι → Ordinal) :
+  o * iSup f = ⨆ i, o * f i := by
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
lemma mul_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] (f : ι → Ordinal) :
    o * iSup f = ⨆ i, o * f i := by
```

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 5]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+  rcases eq_zero_or_pos o with (rfl | ho)
+  · simp only [zero_mul]
+    rw [← bot_eq_zero, ciSup_bot]
+  · cases isEmpty_or_nonempty ι
+    · simp
+    · exact (isNormal_mul_right ho).map_iSup (bddAbove_of_small _)
+
+@[simp]
+lemma mul_lsub (o : Ordinal.{max u v}) {ι : Type u} (f : ι → Ordinal) :
+  o * lsub f = ⨆ i, o * Order.succ (f i) := by rw [lsub, Ordinal.mul_iSup]; rfl
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
    o * lsub f = ⨆ i, o * Order.succ (f i) := by
  rw [lsub, Ordinal.mul_iSup]
  rfl
```

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 2 above)
Comment (SabrinaJewson) [reply Mathlib/SetTheory/Ordinal/Family.lean]: Wait, what’s the reason behind this? I was under the impression that anything that shares a name with something from the root namespace should be labelled `protected`; was that a wrong assumption?

Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Family.lean]: But there's no `add_iSup` in the root namespace

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Family.lean]: We prefer to expand out `iSup`, I believe.
```suggestion
lemma mul_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] (f : ι → Ordinal) :
    o * ⨆ i, f i = ⨆ i, o * f i := by
```

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
    o + ⨆ i, f i = ⨆ i, o + f i :=
  (isNormal_add_right o).map_iSup (bddAbove_of_small _)

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 6]
```diff
@@ -920,18 +920,38 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+protected theorem add_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] [Nonempty ι] (f : ι → Ordinal) :
+  o + iSup f = ⨆ i, o + f i := (isNormal_add_right o).map_iSup (bddAbove_of_small _)
+
+@[simp]
+lemma add_lsub (o : Ordinal.{max u v}) {ι : Type u} [Nonempty ι] (f : ι → Ordinal) :
+  o + lsub f = lsub (fun i ↦ o + f i) := by
+  rw [lsub, lsub, Ordinal.add_iSup]; change _ = iSup (fun i ↦ succ _); simp [add_assoc]
+
+@[simp]
+protected lemma mul_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] (f : ι → Ordinal) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]: The `Small` hypothesis should be redundant. If `range f` is unbounded then both sides will equal 0 by junk values.

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 2 above)
Comment (SabrinaJewson) [reply Mathlib/SetTheory/Ordinal/Family.lean]: You are right. I was thinking of `add_ciSup` and got confused because this is a `ciSup` :sweat_smile:

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 7]
```diff
@@ -920,18 +920,48 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
 @[simp]
-theorem iSup_add_natCast (o : Ordinal) : ⨆ n : ℕ, o + n = o + ω :=
-  apply_omega0_of_isNormal (isNormal_add_right o)
+theorem add_iSup (o : Ordinal.{u}) {ι} [Small.{u} ι] [Nonempty ι] (f : ι → Ordinal) :
+    o + ⨆ i, f i = ⨆ i, o + f i :=
+  (isNormal_add_right o).map_iSup (bddAbove_of_small _)
+
+@[simp]
+theorem add_sSup (o : Ordinal.{u}) {s : Set Ordinal} [Small.{u} s] (hs : s.Nonempty) :
+    o + sSup s = ⨆ i ∈ s, o + i :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]: I think this is a more useful version of that lemma.
```suggestion
    o + sSup s = sSup ((o + ·) '' s) :=
```
It should follow immediately from [`Order.IsNormal.map_sSup`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/IsNormal.html#Order.IsNormal.map_sSup) and shouldn't require all the API you added.

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 8]
```diff
@@ -920,18 +920,48 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+    rw [← bot_eq_zero, ciSup_bot]
+  cases isEmpty_or_nonempty ι
+  · simp
+  by_cases bdd : BddAbove (range f)
+  · exact (isNormal_mul_right ho).map_iSup bdd
+  · rw [ciSup_of_not_bddAbove bdd, ciSup_of_not_bddAbove, csSup_empty, bot_eq_zero', mul_zero]
+    exact fun ⟨u, hu⟩ ↦ bdd ⟨u, fun x ⟨y, hy⟩ ↦ hy ▸ ((f y).le_mul_right ho).trans (hu ⟨y, rfl⟩)⟩
+
+@[simp]
+lemma mul_sSup (o : Ordinal.{u}) (s : Set Ordinal) : o * sSup s = ⨆ i ∈ s, o * i := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]: Same here. I suspect you might be able to prove the `iSup` version from the `sSup` one, rather than the other way around.

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 7 above)
Comment (SabrinaJewson) [reply Mathlib/SetTheory/Ordinal/Family.lean]: I did it this way to mimic [`add_sSup_distrib`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Quantale.html#add_sSup_distrib) but I can see that this version is more convenient.

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 9]
```diff
@@ -920,18 +920,42 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+    o + sSup s = sSup ((o + ·) '' s) :=
+  (isNormal_add_right o).map_sSup hs (bddAbove_of_small s)
+
+@[simp]
+lemma mul_sSup (o : Ordinal.{u}) (s : Set Ordinal) : o * sSup s = sSup ((o * ·) '' s) := by
+  rcases s.eq_empty_or_nonempty with (hempty | hnonempty)
+  · rw [hempty, image_empty, csSup_empty, bot_eq_zero, mul_zero]
+  rcases eq_zero_or_pos o with (rfl | ho)
+  · simp only [zero_mul]
+    rw [← bot_eq_zero, hnonempty.image_const, csSup_singleton]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]:
```suggestion
  rcases s.eq_empty_or_nonempty with (rfl | hnonempty)
  · simp
  rcases eq_zero_or_pos o with (rfl | ho)
  · simp [hnonempty.image_const]
```
Maybe something like `hs` instead of `hnonempty`?

**Review by vihdzp — APPROVED** [review]
Otherwise this looks good to me. Though you might want to remove the changes from #37526 since your PR no longer depends on them.

File: Mathlib/SetTheory/Ordinal/Family.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Family.lean]: Yeah, in complete lattices specifically `⨆ i ∈ s, f i` notation happens to work out nicely. In general this is not the case.

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 10]
```diff
@@ -920,18 +920,42 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+    o + ⨆ i, f i = ⨆ i, o + f i :=
+  (isNormal_add_right o).map_iSup (bddAbove_of_small _)
+
+@[simp]
+theorem add_sSup (o : Ordinal.{u}) {s : Set Ordinal} [Small.{u} s] (hs : s.Nonempty) :
+    o + sSup s = sSup ((o + ·) '' s) :=
+  (isNormal_add_right o).map_sSup hs (bddAbove_of_small s)
+
+@[simp]
+lemma mul_sSup (o : Ordinal.{u}) (s : Set Ordinal) : o * sSup s = sSup ((o * ·) '' s) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]: You don't need explicit universes
```suggestion
lemma mul_sSup (o : Ordinal) (s : Set Ordinal) : o * sSup s = sSup ((o * ·) '' s) := by
```

File: Mathlib/SetTheory/Ordinal/Family.lean [hunk 11]
```diff
@@ -920,18 +920,42 @@ theorem apply_omega0_of_isNormal {f : Ordinal.{u} → Ordinal.{v}} (hf : IsNorma
...
+  · simp only [zero_mul]
+    rw [← bot_eq_zero, hnonempty.image_const, csSup_singleton]
+  by_cases bdd : BddAbove s
+  · exact (isNormal_mul_right ho).map_sSup hnonempty bdd
+  · rw [csSup_of_not_bddAbove bdd, csSup_empty, csSup_of_not_bddAbove]
+    · simp
+    exact fun ⟨u, hu⟩ ↦ bdd ⟨u, fun x hx ↦ (x.le_mul_right ho).trans (hu ⟨x, hx, rfl⟩)⟩
+
+@[simp]
+lemma mul_iSup (o : Ordinal.{u}) {ι} (f : ι → Ordinal) : o * ⨆ i, f i = ⨆ i, o * f i := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Family.lean]: Same here
```suggestion
lemma mul_iSup (o : Ordinal) {ι} (f : ι → Ordinal) : o * ⨆ i, f i = ⨆ i, o * f i := by
```

**Review by vihdzp — APPROVED** [review]

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
